US08377937B2
Trifluoroacetic acid (1 mL) was added to a solution of tert-butyl 4-(N-(4-chlorophenyl)-N-(2-(diethylamino)ethyl)carbamoyl)piperazine-1-carboxylate (311 mg, 0.7 mmol) in DCM (5 mL). The mixture was stirred at room temperature for 3 hours, and then concentrated in vacuo. The residue was dissolved in n-butanol (2 mL). N,N-Diisopropylethylamine (0.5 mL, 3.6 mmol) was added followed by (R)-4-chloro-6,7-dihydro-5-methyl-5H-cyclopenta[d]pyrimidine (113 mg, 0.84 mmol). The reaction mixture was heated at 80° C. for 16 hours. The mixture was then diluted with H2O, and extracted with DCM (2×20 mL). The combined organics were dried (Na2SO4), filtered and concentrated. The crude product was purified by preparative HPLC to give N-(4-chlorophenyl)-N-(2-(diethylamino)ethyl)-4-((R)-6,7-dihydro-5-methyl-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxamide (39.9 mg, 12%). MS (APCI+) [M+H]+471.3. 1H NMR (CDCl3, 400 MHz) : 8.49 (s, 1H), 7.40-7.35 (m, 2H), 7.17-7.13 (m, 2H), 4.06-3.95 (m, 4H), 3.77-3.70 (m, 2H), 3.51-3.44 (m, 1H), 3.39-3.02 (m, 1H), 2.42-2.32 (m, 1H), 1.88-1.82 (m, 1H), 1.33 (t, J=7.2 Hz, 6H), 1.15 (d, J=6.8 Hz, 3H).

reactant | Trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-(N-(4-chlorophenyl)-N-(2-(diethylamino)ethyl)carbamoyl)piperazine-1-carboxylate | 0.7 mmol, 311 mg | ClC1=CC=C(C=C1)N(C(=O)N1CCN(CC1)C(=O)OC(C)(C)C)CCN(CC)CC | C22H35ClN4O3
reactant | N,N-Diisopropylethylamine | 3.6 mmol, 0.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (R)-4-chloro-6,7-dihydro-5-methyl-5H-cyclopenta[d]pyrimidine | 0.84 mmol, 113 mg | ClC=1C2=C(N=CN1)CC[C@H]2C | C8H9ClN2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | N-(4-chlorophenyl)-N-(2-(diethylamino)ethyl)-4-((R)-6,7-dihydro-5-methyl-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxamide | 39.9 mg, 12% | ClC1=CC=C(C=C1)N(C(=O)N1CCN(CC1)C=1C2=C(N=CN1)CC[C@H]2C)CCN(CC)CC | C25H35ClN6O
